US07842685B2
Synthesis of 4-(5-(5-(1-phenylcyclopropyl)[1,3]thiazolo[5,4-b]pyridin-2-yl)-1H-indol-1-yl)butanoic acid
Methyl 4-(5-(5-(1-phenylcyclopropyl)thiazolo[5,4-b]pyridin-2-yl)-1H-indol-1-yl)butanoate (63 mg, 0.135 mmol) was dissolved in THF (1.3 mL) before lithium hydroxide, monohydrate (11 mg, 0.269 mmol) was added and stirred at ambient temperature for 3 h. The reaction mixture was concentrated, acidified with 2 N HCl, filtered, washed with water, and dried in a vacuum oven to give the title compound. MS (ESI) m/z: Calculated: 453.2; Observed: 453.8 (M++H).

reactant | Methyl 4-(5-(5-(1-phenylcyclopropyl)thiazolo[5,4-b]pyridin-2-yl)-1H-indol-1-yl)butanoate | 0.135 mmol, 63 mg | C1(=CC=CC=C1)C1(CC1)C1=CC=C2C(=N1)SC(=N2)C=2C=C1C=CN(C1=CC2)CCCC(=O)OC | C28H25N3O2S
reactant | lithium hydroxide, monohydrate | 0.269 mmol, 11 mg | O.[OH-].[Li+]
solvent | THF | 1.3 mL | C1CCOC1 | C4H8O
product | 4-(5-(5-(1-phenylcyclopropyl)[1,3]thiazolo[5,4-b]pyridin-2-yl)-1H-indol-1-yl)butanoic acid | C1(=CC=CC=C1)C1(CC1)C1=CC=C2C(=N1)SC(=N2)C=2C=C1C=CN(C1=CC2)CCCC(=O)O | C27H23N3O2S
